US08039497B2
A mixture of 3,4-dichlorophenylhydrazine (18.8 mmol) and thiocyanate of potassium (55.7 mmol) was dissolved in water (1 L) and heated for 17 hours. After cooling the product the solid was filtered and dried in vacuo to give 3,4-dichlorophenylthiosemicarbazide (4.20 g, yield=95%). H1NMR (300 MHz, DMSO, 25° C.) δ: 9.37 (s, 1H); 8.30 (s, 1H); 7.84 (s, 1H); 7.60 (s, 1H); 7.40 (d, J=8.7 Hz, 1H); 6.37 (d, J=2.52 Hz. 1H); 6.60 (dd, J=8.67 Hz, J=2.5 Hz. 1H) ppm. EM (ES+) m/z=236 (100%) [M+H]+.

reactant | 3,4-dichlorophenylhydrazine | 18.8 mmol | ClC=1C=C(C=CC1Cl)NN | C6H6Cl2N2
reactant | thiocyanate | [S-]C#N
reactant | potassium | 55.7 mmol | [K] | K
solvent | water | 1 L | O | H2O
product | 3,4-dichlorophenylthiosemicarbazide | 4.20 g, yield=95% | ClC=1C=C(C=CC1Cl)NNC(=S)N | C7H7Cl2N3S
